US08471005B2
[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine was prepared from 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and 4-pyridin-3-yl-phenylamine in an analogous manner to Example 1052a. Product isolated as a yellow foam (31 mg, 26%). LCMS (m/e) 395 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.87 (s, 1H), 8.80 (s, 1H), 8.74 (s, 1H), 8.61-8.54 (m, 1H), 8.42 (d, 1H, J=8.7 Hz), 7.88 (d, 1H, J=7.8 Hz), 7.73 (d, 2H, J=8.1 Hz), 7.57 (d, 2H, J=8.1 Hz), 7.40-7.31 (m, 1H), 7.02-6.84 (m, 4H), 4.03 (s, 3H).

reactant | 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)O | C12H10N4O2
reactant | 4-pyridin-3-yl-phenylamine | N1=CC(=CC=C1)C1=CC=C(C=C1)N | C11H10N2
product | [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-pyridin-3-yl-phenyl)-amine | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C=2C=NC=CC2 | C23H18N6O
